US04192871
20,20-Ethylenedioxy-5α-pregn-2-en-11β-ol
20,20-Ethylenedioxy-5α-pregn-2-en-11-one (9.3 g) in hot ethanol (300 ml) was treated with sodium borohydride (5.5 g) in water (30 ml), and the mixture was refluxed on a steam bath for 1 1/2 hours, concentrated by evaporation to about 200 ml, the excess borohydride destroyed by the addition of glacial acetic acid (0.5 ml), and the mixture poured on to ice-water to give a white crystalline precipitate. The precipitate was filtered off, washed with water and dried in vacuo to give title compound (9.05 g), as colourless needles, m.p. 141°-145°, [α]D +64°.

reactant | 20,20-Ethylenedioxy-5α-pregn-2-en-11-one | 9.3 g | C1OC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5CC=CC[C@]5(C)[C@H]4C(C[C@]23C)=O)OC1 | C23H34O3
reactant | sodium borohydride | 5.5 g | [BH4-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 20,20-Ethylenedioxy-5α-pregn-2-en-11β-ol | 9.05 g | C1OC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5CC=CC[C@]5(C)[C@H]4[C@H](C[C@]23C)O)OC1 | C23H36O3
